US06426346B1
Part A. Preparation of 2-(3′-cyanophenyl)nicotinic acid
Methyl 2-(3′-cyanophenyl)nicotinate (1.21 g, 5.1 mmol) was partially dissolved in MeOH (40 mL), and lithium hydroxide monohydrate (234 mg dissolved in 6 mL H2O, 5.6 mmol) was added. After 20 hours, the resulting solution was diluted with water and extracted with CHCl3. The aqueous was acidified to pH 4 with 1 M HCl and extracted several times with CHCl3. Solid sodium chloride was added to the aqueous solution and the solution was extracted with 5-10% MeOH/CHCl3. The organic extracts were combined, dried over Na2SO4, filtered, and evaporated to yield a white solid (1.06 g, 93%). 1H NMR (CDCl3): δ8.85 (dd, 1H, J=5.1, J′=1.5), 8.35 (dd, 1H, J=7.6, J′=1.4), 7.84 (s, 1H), 7.75 (m, 2H), 7.55 (t, 1H, J=7.7), 7.47 (m, 1H).

reactant | Methyl 2-(3′-cyanophenyl)nicotinate | 5.1 mmol, 1.21 g | C(#N)C=1C=C(C=CC1)C1=C(C(=O)OC)C=CC=N1 | C14H10N2O2
reactant | lithium hydroxide monohydrate | 5.6 mmol, 6 mL, 234 mg | O.[OH-].[Li+]
solvent | MeOH | 40 mL | CO | CH4O
solvent | water | O | H2O
product | 2-(3′-cyanophenyl)nicotinic acid | 1.06 g, 93% | C(#N)C=1C=C(C=CC1)C1=C(C(=O)O)C=CC=N1 | C13H8N2O2
